US07507740B2
Production of 2-(4-aminophenyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-2H-pyrazolo[4,3-d]pyrimidin-7-amine
To a solution of N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-2-(4-nitrophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-amine (200 mg) in a mixed solvent of ethanol/water (9:1, 6 mL) was added calcium chloride (90%, 28 mg) and the mixture was stirred at 100° C. for 10 min. Reduced iron (90%, 164 mg) was added at room temperature, and the mixture was stirred at 100° C. for 5 hrs. After the completion of the reaction, the reaction mixture was filtered (celite), and the filtrate was concentrated under reduced pressure. Water was added to the residue and the mixture was diluted with ethyl acetate and washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methylene chloride=10/1) to give the title compound (140 mg) as a white solid.

reactant | N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-2-(4-nitrophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-amine | 200 mg | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC=1C=2C(N=CN1)=CN(N2)C2=CC=C(C=C2)[N+](=O)[O-] | C24H19N7O3
reactant | calcium chloride | 28 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol water | 6 mL | C(C)O.O
product | 2-(4-aminophenyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-2H-pyrazolo[4,3-d]pyrimidin-7-amine | 140 mg | NC1=CC=C(C=C1)N1N=C2C(N=CN=C2NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C)=C1 | C24H21N7O
